US08168794B2
A solution of 2-(3-(3-aminopyridin-4-yl)-5,5-dimethylcyclohex-2-enyl)isoindoline-1,3-dione (1.0 eq) in acetic acid (0.1 M) was purged with nitrogen for 10 min. Then 10% Pd/C (0.1 eq) was added. The reaction mixture was stirred at 45° C., 300 psi hydrogen atmosphere in a steel bomb overnight and at 65° C., 300 psi for 5 hours. Solids were removed by filtration over celite, then rinsed with EtOAc and MeOH. The filtrate was concentrated, diluted with EtOAc and washed 2× with sat. aq. 2M Na2CO3. Organic layer was dried with MgSO4, filtered, and concentrated. The residue was purified by column (5% methanol in 1:1 ethyl acetate and hexanes) to give 2-(5-(3-aminopyridin-4-yl)-3,3-dimethylcyclohexyl)isoindoline-1,3-dione (53%). LC/MS (m/z): MH+=350.3, Rt=0.78 min. The enantiomerically pure 2-((1R,5R)-5-(3-aminopyridin-4-yl)-3,3-dimethylcyclohexyl)isoindoline-1,3-dione and 2-((1S,5S)-5-(3-aminopyridin-4-yl)-3,3-dimethylcyclohexyl)isoindoline-1,3-dione were resolved by chiral HPLC (For analysis Rt=7.53 min and 13.11 min respectively; hexanes:ethanol=80:20 (v:v), Chiralcel OJ-H 100×4.6 mm at 1 mL/min. For preparative separation, hexanes:ethanol=80:20 (v:v), Chiralcel OJ-H 250×20 mm at 20 mL/min ). 1H NMR (CDCl3): δ 8.04 (s, 1H), 8.00 (d, 1H), 7.82 (m, 2H), 7.71 (m, 2H), 7.06 (d, 1H), 4.54 (m, 1H), 3.71 (m, 2H), 2.89 (m, 1H), 2.23-2.44 (m, 2H), 1.90 (m, 1H), 1.20-1.60 (m, 3H), 1.18 (s, 3H), 1.07 (s, 3H).

reactant | 2-(3-(3-aminopyridin-4-yl)-5,5-dimethylcyclohex-2-enyl)isoindoline-1,3-dione | 1.0 eq | NC=1C=NC=CC1C1=CC(CC(C1)(C)C)N1C(C2=CC=CC=C2C1=O)=O | C21H21N3O2
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 0.1 M | C(C)(=O)O | C2H4O2
catalyst | Pd/C | 0.1 eq | [Pd] | Pd
product | 2-(5-(3-aminopyridin-4-yl)-3,3-dimethylcyclohexyl)isoindoline-1,3-dione | 53% | NC=1C=NC=CC1C1CC(CC(C1)N1C(C2=CC=CC=C2C1=O)=O)(C)C | C21H23N3O2
